US05747473
Med. Chem. Vol 22, 1979, 518-525 describes the synthesis of methyl 2,3-dideoxy-3-C-(hydroxymethyl)-β-D-erythropentofuranoside as well as the corresponding dibenzyl- and dibenzoyl derivative. The chloro derivative 5-0-benzoyl-3-C-[(benzoyloxy)methyl)]-2,3-dideoxy-D-erythro-pentafuranosyl chloride was coupled with 2-acetamido-6-chloropurine. The product was processed further to give the two anomers of 2-amino-9-[2,3-dideoxy-3-C-3-(hydroxymethyl)-D-erythro-pentofuranosyl]-9H-purine-6(1H)-thione which were tested for antitumor activity. The synthesis of 2,3'-dideoxy-3'(R)-hydroxymethyl uridine has been described in Nucleosides & Nucleotides 1 (1982) 263-273. Uridine was converted to 1-(3-amino-2,3-dideoxy-β-D-glucopyranosyl)uracil via a multistage sequence, which was further reacted via ring contraction, epimerization and reduction to give 2',3'-dideoxy-3'(R)-hydroxymethyl uridine.

reactant | Uridine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
reactant | 1-(3-amino-2,3-dideoxy-β-D-glucopyranosyl)uracil | N[C@@H]1C[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C10H15N3O5
product | 2',3'-dideoxy-3'(R)-hydroxymethyl uridine | OC[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C10H14N2O5
